US04261996
4,9-Dihydro-5-methoxy-9-oxo-pyrazolo[5,1-b]quinazoline-2-carboxamide.
A mixture of 4,9-dihydro-5-methoxy-9-oxo-pyrazolo[5,1-b]quinazoline-2-carboxylic acid (6.6 g; 0.025 mole) and phosphorous oxychloride (100 ml) is stirred at room temperature overnight. The solid is filtered off, washed with ether, dried and treated with cold (0° C.) ammonium hydroxide solution (58%; 50 ml). After standing overnight at room temperature the product is filtered off, dried and used in the next step without further purification. Yield 5.06 g; mp 265°-270° C. By the same procedure, starting with the corresponding 6,7-dimethoxy compound, the product obtained is 4,9-dihydro-6,7-dimethoxy-9-oxo-pyrazolo[5,1-b]quinazoline-2-carboxamide.

reactant | 4,9-dihydro-5-methoxy-9-oxo-pyrazolo[5,1-b]quinazoline-2-carboxylic acid | 0.025 mole, 6.6 g | COC1=CC=CC=2C(N3C(NC12)=CC(=N3)C(=O)O)=O | C12H9N3O4
reactant | 4,9-dihydro-6,7-dimethoxy-9-oxo-pyrazolo[5,1-b]quinazoline-2-carboxamide | COC=1C(=CC=2C(N3C(NC2C1)=CC(=N3)C(=O)N)=O)OC | C13H12N4O4
solvent | phosphorous oxychloride | 100 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4,9-Dihydro-5-methoxy-9-oxo-pyrazolo[5,1-b]quinazoline-2-carboxamide | COC1=CC=CC=2C(N3C(NC12)=CC(=N3)C(=O)N)=O | C12H10N4O3
